US04668787
3-Butyl-8-chloro-5,6-dimethoxy-4-imino-2(1H)quinazolinone
A solution of 0.5 g (1.77 mmol) of 3-butyl-5,6-dimethoxy-4-imino-2(1H)quinazolinone and N-chlorosuccinimide (0.45 g, 3.35 mmol) in 100 ml of CHCl3 was heated at reflux for 18 hours. The reaction mixture was cooled, washed with 10% aqueous sodium thiosulfate (3×35 ml), dried with anhydrous MgSO4 and evaporated to give the crude product as an orange-brown solid. Recrystallization from 2-propanol afforded the desired product in analytical purity; yield 0.30 g (54.5%) mp 155°-157°.

reactant | 3-butyl-5,6-dimethoxy-4-imino-2(1H)quinazolinone | 1.77 mmol, 0.5 g | C(CCC)N1C(NC2=CC=C(C(=C2C1=N)OC)OC)=O | C14H19N3O3
reactant | N-chlorosuccinimide | 3.35 mmol, 0.45 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Butyl-8-chloro-5,6-dimethoxy-4-imino-2(1H)quinazolinone | C(CCC)N1C(NC2=C(C=C(C(=C2C1=N)OC)OC)Cl)=O | C14H18ClN3O3
